*****************************************************************
* NXP PSMN023-40YLC
*
* Polarity N-Channel
* Ratings 40V/2.300000E-002OHMS/24.2644089650204A
*
* Date Created Mon Aug 13 08:45:00 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN023-40YLC DRAIN GATE SOURCE

LD DRAIN 5 3e-11
RLD2 DRAIN 5 0.075398223686155
RLD1 5 4 6e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 8e-10
RLS2 SOURCE 8 2.01061929829747
RLS1 8 7 0.00062

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0174484102600308 TC=0.00556504242263209,3.14798686033038E-07
RBD 9 4 0.00962168503108481 TC=0.00556504242263209,3.14798686033038E-07
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 4.66639441644955e-10
RG 1 2 1.68003376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -1	246.607
+ -0.5	186.805
+ -0.2	154.602
+ -0.1	153.82
+ 0	135.498795
+ 0.1	112.49851
+ 0.2	112.38295
+ 0.5	94.10089
+ 1	78.1892
+ 2	63.26932
+ 3	55.28614
+ 4	49.68189
+ 5	45.30265
+ 6	42.2545
+ 8	38.9499
+ 10	37.5902
+ 12	37.14355
+ 15	37.08219
+ 16	37.08873
+ 20	36.95033
+ 25	36.57206
+ 30	36.13674



.MODEL MINT NMOS(Vto=2.06975214338982 Kp=9.512707e+001 Nfs=450000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=2.25820095264129e-13
+ N=1 M=0.62 VJ=0.87 Fc=0.5 Cjo=4.8175055e-10 Tt=1.292536e-08)

.ENDS

